US07148226B2
4-bromo-2,6-dichlorophenyl ethyl ether
The title compound was prepared analogously to step 2 in Example A(125), where 5-Bromo-1,3-dichloro-phenol was substituted in place of 4-bromo-2-ethyl-phenol in that example.

reactant | 5-Bromo-1,3-dichloro-phenol | BrC=1C=C(CC(C1)(O)Cl)Cl | C6H5BrCl2O
reactant | 4-bromo-2-ethyl-phenol | BrC1=CC(=C(C=C1)O)CC | C8H9BrO
product | 4-bromo-2,6-dichlorophenyl ethyl ether | C(C)OC1=C(C=C(C=C1Cl)Br)Cl | C8H7BrCl2O
